US08008279B2
(1R,2R)-N-(1-cyanocyclopropyl)-2-[(6-propoxy-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)carbonyl]cyclohexanecarboxamide
(1R,2R)-2-(6-Hydroxy-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carbonyl)-cyclohexanecarboxylic acid (1-cyano-cyclopropyl)-amide (102 mg, 0.25 mmol), 1-bromopropane (28.0 uL, 0.30 mmol) and potassium carbonate (35.0 mg, 0.25 mmol) in acetone (5 mL) were heated to reflux for 3 h. Added further 1-bromopropane (58.0 uL, 0.60 mmol) and potassium carbonate (70.0 mg, 0.50 mmol) and heated overnight. The reaction darkened significantly and LCMS indicated 60% required product and 40% SM. The reaction was filtered and the liquors evaporated to dryness before redissolving in acetonitrile and purifying by preparative HPLC (0.5% HCOOH, CH3CN/H2O gradient) to give a brown glass (21.3 mg, 18%)

reactant | (1R,2R)-2-(6-Hydroxy-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carbonyl)-cyclohexanecarboxylic acid (1-cyano-cyclopropyl)-amide | 0.25 mmol, 102 mg | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)O)CC1 | C23H26N4O3
reactant | 1-bromopropane | 0.30 mmol, 28.0 uL | BrCCC | C3H7Br
reactant | potassium carbonate | 0.25 mmol, 35.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 0.60 mmol, 58.0 uL | BrCCC | C3H7Br
reactant | potassium carbonate | 0.50 mmol, 70.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | (1R,2R)-N-(1-cyanocyclopropyl)-2-[(6-propoxy-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)carbonyl]cyclohexanecarboxamide | 60% | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)OCCC)CC1 | C26H32N4O3
